US06235731B1
Synthesis of N-[1-(2-phenoxyethan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Under nitrogen gas, 0.37 ml (4.78 mM) of methanesulfonyl chloride was added to a solution of 0.44 g (3.18 mM) of phenoxyethanol and 0.89 ml (6.39 mM) of triethylamine in methylene chloride (6 ml) at 0° C. and the mixture was stirred at the prevailing temperature for 35 minutes. The reaction was stopped by adding saturated aqueous solution of sodium hydrogen carbonate and the reaction mixture was extracted with diethyl ether. The organic layer was washed serially with water and saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide 0.6989 g (<3.18 mM) of phenoxyethyl mesylate. To a solution of 0.58 g (1.5 mM) of N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 1.0 ml (7.2 mM) of triethylamine in ethanol (6.0 ml) was added 0.6989 g (<3.18 mM) of the above phenoxyethyl mesylate at room temperature and the mixture was refluxed under nitrogen for 17 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The resulting crude product was purified by column chromatography (methanol/ethyl acetate 30-40%) to provide the title compound.

reactant | N-[1-(2-phenoxyethan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | O(C1=CC=CC=C1)CCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H26N4O2S
reactant | methanesulfonyl chloride | 4.78 mM, 0.37 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | phenoxyethanol | 3.18 mM, 0.44 g | O(C1=CC=CC=C1)C(C)O | C8H10O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 6.39 mM, 0.89 ml | C(C)N(CC)CC | C6H15N
product | phenoxyethyl mesylate | <3.18 mM, 0.6989 g | S(C)(=O)(=O)OCCOC1=CC=CC=C1 | C9H12O4S
